US07807691B2
2-chloro-3-methyl-4-[2-(3-methyl-1,2,4-oxadiazol-5-yl)pyrrolidin-1-yl]benzonitrile
To a solution of 1-(3-chloro-4-cyano-2-methylphenyl)proline (0.200 g, 0.756 mmol), TBTU (0.364 g, 1.136 mmol), diisopropylethylamine (0.458 g, 3.78 mmol) and N-hydroxybenzotriazole (0.023 g, 0.150 mmol) in DMF add N-hydroxyacetamidine (0.084 g, 1.136 mmol). Stir the solution at 21° C. for 18 h. then heat the reaction at 100° C. in a microwave for 1 h. Partition the reaction between ethyl acetate and 2N aqueous hydrochloric acid. Extract the organic phase with 2N aqueous sodium hydroxide and brine, dry over magnesium sulphate, filter and remove the solvent under reduced pressure. Purify the resulting residue by reverse phase HPLC (Princeton SPHER C-18 column, gradient of 80:20 to 5:95 [water:acetonitrile], with 0.1% acetic acid modifier)) to yield the title compound. (0.81 g, 35%) mass spectrum (m/e): 303.1 (M+Na)); 1H NMR (400 MHz, CDCl3): δ 7.35 (d, 1H), 6.99 (d, 1H), 5.11 (t, 1H), 3.88 (m, 1H), 3.16 (m, 1H), 2.56 (m, 1H), 2.39 (s, 3H), 2.31 (s, 3H), 2.30-2.15 (m. 3H), 2.06 (m, 1H).

reactant | 1-(3-chloro-4-cyano-2-methylphenyl)proline | 0.756 mmol, 0.200 g | ClC=1C(=C(C=CC1C#N)N1[C@H](C(=O)O)CCC1)C | C13H13ClN2O2
reactant | TBTU | 1.136 mmol, 0.364 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | 3.78 mmol, 0.458 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-hydroxybenzotriazole | 0.150 mmol, 0.023 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-hydroxyacetamidine | 1.136 mmol, 0.084 g | ONC(C)=N | C2H6N2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-chloro-3-methyl-4-[2-(3-methyl-1,2,4-oxadiazol-5-yl)pyrrolidin-1-yl]benzonitrile | ClC1=C(C#N)C=CC(=C1C)N1C(CCC1)C1=NC(=NO1)C | C15H15ClN4O
